US07354933B2
A solution of 0.31 g of 2-ethoxy-4-(hydroxymethyl)pyridine in 6 ml of dichloromethane is added dropwise to a solution of 1.025 g of dibromotriphenylphosphorane in 12 ml of dichloromethane, under an inert atmosphere of argon at a temperature in the region of 20° C. Stirring is continued at this temperature for about 1 hour. The reaction medium is taken up in 100 ml of dichloromethane and then washed with 3×100 ml of water. The organic phase is dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure. The residue thus obtained is purified by flash chromatography, using a cartridge 27 mm in diameter packed with 20 g of 20-40 μm conditioned silica, and then eluted with a mixture (cyclohexane/ethyl acetate) (9/1) (v/v) at a flow rate of 8 ml/minute. The fractions between 80 and 180 ml are concentrated under reduced pressure. 0.37 g of 2-ethoxy-4-(bromomethyl)pyridine is thus obtained.

reactant | 2-ethoxy-4-(hydroxymethyl)pyridine | 0.31 g | C(C)OC1=NC=CC(=C1)CO | C8H11NO2
reactant | dibromotriphenylphosphorane | 1.025 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-ethoxy-4-(bromomethyl)pyridine | 0.37 g | C(C)OC1=NC=CC(=C1)CBr | C8H10BrNO
